US07138401B2
Step 1: Acetic acid 4-hydroxymethyl-2,6-dimethoxy-phenyl ester
A solution of acetic acid 4-formyl-2,6-dimethoxy-phenyl ester (25 mmol) in MeOH (100 mL) was treated with NaBH4 (1 equiv.) at 0° C. for 15 min. After quenching with acetone and evaporating the solvent, work-up (CH2Cl2) and evaporation gave the title compound as a white solid (85% yield). Rf (in EtOAc/Hexane 1:1): 0.5. 1H-NMR (CDCl3): δ 6.66 (s, 1H), 4.68–4.70 (d, 2H), 3.85 (s, 3H), 2.36 (s, 3H), 1.74 (t, 1H).

reactant | acetic acid 4-formyl-2,6-dimethoxy-phenyl ester | 25 mmol | C(=O)C1=CC(=C(C(=C1)OC)OC(C)=O)OC | C11H12O5
reactant | NaBH4 | 1 equiv. | [BH4-].[Na+]
solvent | MeOH | 100 mL | CO | CH4O
product | Acetic acid 4-hydroxymethyl-2,6-dimethoxy-phenyl ester | 85% yield | OCC1=CC(=C(C(=C1)OC)OC(C)=O)OC | C11H14O5
